US06762205B1
The procedure of Preparation Example 9 was repeated, except that 222 mg of 4-[N-(4-benzyloxybenzyl)-N-(3-pyridyl)amino]benzonitrile was used in place of 4-[N-(4-benzyloxybenzyl)-N-methylsulfonylamino]-phenyl methanesulfonate, and 3 ml of ethyl acetate was used in place of dioxane. The resulting mixture was stirred for 3 days under an atmospheric pressure of hydrogen. The reaction mixture was filtered to remove any insoluble matter, and the solvent was distilled off from the filtrate. The resulting crude product was purified by TLC (using a 1:1 mixture of ethyl acetate and hexane as the developing solvent) to obtain 95 mg of 4-[N-(4-hydroxybenzyl)-N-(3-pyridyl)amino]benzonitrile.

reactant | 4-[N-(4-benzyloxybenzyl)-N-(3-pyridyl)amino]benzonitrile | 222 mg | C(C1=CC=CC=C1)OC1=CC=C(CN(C=2C=NC=CC2)C2=CC=C(C#N)C=C2)C=C1 | C26H21N3O
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
product | 4-[N-(4-hydroxybenzyl)-N-(3-pyridyl)amino]benzonitrile | 95 mg | OC1=CC=C(CN(C=2C=NC=CC2)C2=CC=C(C#N)C=C2)C=C1 | C19H15N3O
